US07153968B2
Step 1: Z-3-(4-Bromo-phenyl)-acrylic acid methyl ester (Tett Lett. 1983, 4405)
To a solution of [Bis-(2,2,2-trifluoro-ethoxy)-phosphoryl]-acetic acid methyl ester (1.0 eq.) and 18—C-6 (5.0 eq.) in THF (0.05M) at −78° C. was added dropwise KN(TMS)2 (1.0 eq.). The mixture was stirred at −78° C. for 15 min then 4-bromobenzaldehyde (1.0 eq.) was added. The final mixture stirred for 1 h at −78° C., poured in saturated aqueous NH4Cl and extracted with Et2O (3×). The combined organic extracts were washed with, brine, dried over Na2SO4, filtered and concentrated. Flash chromatography (Hex:EtOAc 10 to 25%) afforded a mixture of desired material and the starting aldehyde. Upon treatment in CH2Cl2 of the mixture with Amino-Merrifield resin for 10 min, the aldehyde was removed. Filtration and concentration afforded the title compound as an oil.

reactant | [Bis-(2,2,2-trifluoro-ethoxy)-phosphoryl]-acetic acid methyl ester | 1.0 eq. | COC(CP(=O)(OCC(F)(F)F)OCC(F)(F)F)=O | C7H9F6O5P
reactant | 4-bromobenzaldehyde | 1.0 eq. | BrC1=CC=C(C=O)C=C1 | C7H5BrO
solvent | THF | 0.05M | C1CCOC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Z-3-(4-Bromo-phenyl)-acrylic acid methyl ester | COC(\C=C/C1=CC=C(C=C1)Br)=O | C10H9BrO2
